US07825253B2
4-Fluoro-N-[2-(2-methyl-benzofuran-7-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=448.0 (M+H+), was prepared in accordance with the general method of example 58 from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and 4-fluorobenzenesulfonylchloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 4-fluorobenzenesulfonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-Fluoro-N-[2-(2-methyl-benzofuran-7-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1=CC=CC=2C=C(OC21)C | C24H18FN3O3S
